US05538986
Dissolved 1,1-dimethylethyl 1-[2-[10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]ethyl]-2-pyrrolidinecarboxylate (2.40 g, 5.56 mmol) in 30 mL of dry THF. Added 25 mL of 4.0M HCl in dioxane, and refluxed for 16 hours on steam bath. Cooled to room temperature, and evaporated. Purified crude product by flash chromatography on silica gel eluting with 5% MeOH--CH2Cl2. Combined appropriate fractions and evaporated to give 0.80 g (40% yield) of 1-[2-[10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]ethyl]-2-pyrrolidinecarboxylic acid. Dissolved free base in dichloromethane, and added 3.4M HCl in ether to pH=2. Evaporated, and added ether to precipitate hydrochloride salt.

reactant | 1,1-dimethylethyl 1-[2-[10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]ethyl]-2-pyrrolidinecarboxylate | 5.56 mmol, 2.40 g | C(C=C)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)CCN2C(CCC2)C(=O)OC(C)(C)C | C29H37NO2
reactant | HCl | 4.0M, 25 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-[2-[10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]ethyl]-2-pyrrolidinecarboxylic acid | 0.80 g, 40% yield | C(C=C)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)CCN2C(CCC2)C(=O)O | C25H29NO2
